US07855194B2
Piperidin-4-yl-(4-trifluoromethyl-pyrimidin-2-yl)-amine dihydrochloride
A solution of 4-(4-trifluoromethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (3.47 g, 10.02 mmol) in ethanol (50 mL) and 4 M HCl in dioxane (75 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 247.1 [M+H]+.

reactant | 4-(4-trifluoromethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 10.02 mmol, 3.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=N1)C(F)(F)F | C15H21F3N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(4-trifluoromethyl-pyrimidin-2-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=CC(=N1)C(F)(F)F | InChI=1S/C10H13F3N4.2ClH/c11-10(12,13)8-3-6-15-9(17-8)16-7-1-4-14-5-2-7;;/h3,6-7,14H,1-2,4-5H2,(H,15,16,17);2*1H
